US05373002
To a solution of (2R, 5S)-8-oxo-2-phenyl-3-oxa-1-azabicyclo[3.3.0]octane (50 g, 246 mmol, J. Org. Chem., 51, 3140 (1986)) in tetrahydrofuran (1500 ml), lithium diisopropylamide (2M tetrahydrofuran-heptane solution, 147.6 ml, 295.2 mmol) was dropwise added at -78° C., and the reaction solution was stirred at the same temperature for 30 minutes. A solution of (2S, 4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxyprolinal (61.0 g, 245.9 mmol) in tetrahydrofuran (400 ml) was dropwise added thereto, and the reaction solution was stirred at the same temperature for 30 minutes. Acetic acid (17.6 ml, 307.5 mmol) was dropwise added to the reaction solution. Then, the dry ice bath was removed and the reaction mixture solution was stirred for 30 minutes. To the reaction solution, ethyl acetate and 5% sodium hydrogen carbonate aqueous solution were added and the solution mixture was subjected to liquid separation and the aqueous layer was extracted with ethyl acetate. The organic layers were put together and washed with a saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate and concentrated under reduced pressure. Ethyl acetate and n-hexane were added to the residue and the precipitated crystal was collected by filtration to obtain (2R, 5S)-7-[[(2S, 4R)-N-tert-butoxycarbonyl-4-(tert-butyldimethylsiloxy)pyrrolidin-2-yl](hydroxy)methyl]-8-oxo-2-phenyl-3-oxa-1azabicyclo[3.3.01octane diastereomer A (14.0 g, yield: 11.3%). The filtrate was concentrated to obtain an oily diastereomer mixture (114.7 g, yield: 87.5%).

reactant | (2R, 5S)-8-oxo-2-phenyl-3-oxa-1-azabicyclo[3.3.0]octane | 246 mmol, 50 g | O=C1CC[C@H]2CO[C@@H](N12)C1=CC=CC=C1 | C12H13NO2
reactant | lithium diisopropylamide | 295.2 mmol, 2M, 147.6 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | (2S, 4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxyprolinal | 245.9 mmol, 61.0 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | Acetic acid | 307.5 mmol, 17.6 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 1500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | (2R, 5S)-7-[[(2S, 4R)-N-tert-butoxycarbonyl-4-(tert-butyldimethylsiloxy)pyrrolidin-2-yl](hydroxy)methyl]-8-oxo-2-phenyl-3-oxa-1azabicyclo[3.3.01octane | yield: 11.3% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(C1C[C@H]2CO[C@@H](N2C1=O)C1=CC=CC=C1)O | C28H44N2O6Si
